US07196087B2
To a solution of 5-bromo-3-methyl-3,4-dihydro-1H-quinazolin-2-one (132 mg, 0.55 mmol) in 5 ml anhydrous dimethylformanide was added sodium hydride (33 mg of a 60% suspension in mineral oil, 0.83 mmol) portionwise at 0° C. The solution was stirred with a magnetic stirrer at 0° C. for 20 minutes, at which time the initial offgassing ended. 3-Fluorobenzyl bromide (0.08 ml, 0.65 mmol) was added in one portion and the reaction mixture was stirred at 0° C. for an hour. The solution was allowed to warm to room temperature and the reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate and the combined organic fractions were washed with water and brine. After drying over MgSO4, the organic fraction was concentrated in vacuo and resulting residue was purified by flash chromatography to give 156 mg of 5-bromo-1-(3-fluoro-benzyl)-3-methyl-3,4-dihydro-1H-quinazolin-2-one as a yellow solid (81%). MS: 349.1 (M+H)+.

reactant | 5-bromo-3-methyl-3,4-dihydro-1H-quinazolin-2-one | 0.55 mmol, 132 mg | BrC1=C2CN(C(NC2=CC=C1)=O)C | C9H9BrN2O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-Fluorobenzyl bromide | 0.65 mmol, 0.08 ml | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | 5-bromo-1-(3-fluoro-benzyl)-3-methyl-3,4-dihydro-1H-quinazolin-2-one | 156 mg, 81% | BrC1=C2CN(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)C | C16H14BrFN2O
